US08283353B2
N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine
To a suspension of 1-benzyl-N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine (38 g) and palladium hydroxide (10 wt %, 11.4 g) in ethanol (200 mL)-acetic acid (40 mL) was added ammonium formate (32 g) by small portions at 80° C. After stirring at 80° C. for 4 hr, the mixture was allowed to cool to room temperature, ethyl acetate was added, and the insoluble material was filtered off. Saturated aqueous sodium hydrogen carbonate was added to the filtrate, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was crystallized using ethyl acetate, and the resulting solid was collected by filtration, washed with diisopropyl ether, and dried under reduced pressure to give the title compound as a pale-yellow solid (22 g, 82%).

reactant | 1-benzyl-N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine | 38 g | C(C1=CC=CC=C1)N1N=CC=C1NC1CCC2(OCCO2)CC1 | C18H23N3O2
reactant | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
reactant | ammonium formate | 32 g | C(=O)[O-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 11.4 g | [OH-].[Pd+2].[OH-]
product | N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine | 22 g, 82% | O1CCOC12CCC(CC2)NC2=CC=NN2 | C11H17N3O2
